US04111942
8-[5-(4-Fluorophenyl)-2-pentyl]-5,5-dimethyl-10-(methylsulfonamido)-5H-[1]benzopyrano[4,3-c]pyridine (IX)
The titled compound was prepared by reacting 10-amino-8-[5-(4-fluorophenyl)-2-pentyl]-5,5-dimethyl-5H-[1]benzopyrano[4,3-c]pyridine with methanesulfonyl chloride according to the method of Example 3. The crude product was filtered and recrystallized from acetonitrile; m.p. 208°-209°.

reactant | 10-amino-8-[5-(4-fluorophenyl)-2-pentyl]-5,5-dimethyl-5H-[1]benzopyrano[4,3-c]pyridine | NC1=CC(=CC2=C1C=1C=NC=CC1C(O2)(C)C)C(C)CCCC2=CC=C(C=C2)F | C25H27FN2O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 8-[5-(4-Fluorophenyl)-2-pentyl]-5,5-dimethyl-10-(methylsulfonamido)-5H-[1]benzopyrano[4,3-c]pyridine | FC1=CC=C(C=C1)CCCC(C)C1=CC2=C(C(=C1)NS(=O)(=O)C)C=1C=NC=CC1C(O2)(C)C | C26H29FN2O3S
